US07329633B2
zineb;
ziram; zoxamide;

reactant | ziram | CN(C)C(=S)[S-].CN(C)C(=S)[S-].[Zn+2]
reactant | zoxamide | CCC(C)(C(=O)CCl)NC(=O)C=1C=C(C(=C(C1)Cl)C)Cl | C14H16Cl3NO2
product | zineb | C(CNC(=S)[S-])NC(=S)[S-].[Zn+2] | InChI=1S/C4H8N2S4.Zn/c7-3(8)5-1-2-6-4(9)10;/h1-2H2,(H2,5,7,8)(H2,6,9,10);/q;+2/p-2
